US07148246B2
0.06 g of cis-3-[2-(4-fluorophenyl)-5-methyloxazol-4-ylmethoxy]cyclohexyl 3-cyanobenzoate is dissolved in 5 ml of xylene, 150 μm of tributyltin azide are added and the mixture is heated under reflux at 160° C. for 24 hours. The reaction is terminated by addition of 1 ml of trifluoroacetic acid (in 1 ml of methanol), 3 ml of water are added and the mixture is extracted with ethyl acetate (2×10 ml). The combined organic phases are washed with saturated sodium chloride solution and dried over magnesium sulfate, and the solvent is then removed under reduced pressure. Purification by preparative HPLC gives 0.04 g of the desired cis-3-[2-(4-fluorophenyl)-5-methyloxazol-4-ylmethoxy]cyclohexyl 3-(1H-tetrazol-5-yl)benzoate as an amorphous solid.

reactant | cis-3-[2-(4-fluorophenyl)-5-methyloxazol-4-ylmethoxy]cyclohexyl 3-cyanobenzoate | 0.06 g | C(#N)C=1C=C(C(=O)O[C@@H]2C[C@@H](CCC2)OCC=2N=C(OC2C)C2=CC=C(C=C2)F)C=CC1 | C25H23FN2O4
reactant | tributyltin azide | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | cis-3-[2-(4-fluorophenyl)-5-methyloxazol-4-ylmethoxy]cyclohexyl 3-(1H-tetrazol-5-yl)benzoate | 0.04 g | N1N=NN=C1C=1C=C(C(=O)O[C@@H]2C[C@@H](CCC2)OCC=2N=C(OC2C)C2=CC=C(C=C2)F)C=CC1 | C25H24FN5O4
